US09403801B2
Step 1) 3-cyclopropyl-1-methyl-1H-pyrazol-5-amine
To a solution of 3-cyclopropyl-3-oxo-propanenitrile (2.22 g, 20.3 mmol) in HOAc (40 mL) was added methylhydrazine (40% [w/w] in water, 2.81 g, 24.4 mmol). The reaction mixture was stirred at 100° C. overnight and then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM) to give the title compound as yellow oil (2.80 g, 100%).

reactant | 3-cyclopropyl-3-oxo-propanenitrile | 20.3 mmol, 2.22 g | C1(CC1)C(CC#N)=O | C6H7NO
reactant | methylhydrazine | 24.4 mmol, 2.81 g | CNN | CH6N2
solvent | HOAc | 40 mL | CC(=O)O | C2H4O2
product | 3-cyclopropyl-1-methyl-1H-pyrazol-5-amine | 2.80 g, 100% | C1(CC1)C1=NN(C(=C1)N)C | C7H11N3
